US07541372B2
b) Imidazol-1-yl-{4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-methanone
To a suspension of 4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-benzoic acid (1.90 g, 5.48 mmol) in tetrahydrofuran (20 mL) was added 1,1′-carbonyl-diimidazole (978 mg, 6.03 mmol) and the mixture was stirred for 0.5 h at 80° C. After cooling to ambient temperature the resulting suspension was poured onto water (100 mL), stirred for 15 min at ambient temperature and was filtered. Washing with water and drying afforded the title compound (1.51 g, 69%) which was obtained as a yellow solid. MS: m/e=398.2 [M+H]+.

reactant | 4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-benzoic acid | 5.48 mmol, 1.90 g | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=CC=C(C(=O)O)C=C1 | C19H13N3O4
reactant | 1,1′-carbonyl-diimidazole | 6.03 mmol, 978 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Imidazol-1-yl-{4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-methanone | 1.51 g, 69% | N1(C=NC=C1)C(=O)C1=CC=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C22H15N5O3
